2203-01-05 09:42:00 Physician Resident Progress Note
Chief Complaint: abdominal distention
   24 Hour Events:
 PICC LINE - START [**2203-1-4**] 11:44 PM
 BLOOD CULTURED - At [**2203-1-5**] 02:53 AM
 STOOL CULTURE - At [**2203-1-5**] 04:15 AM
   Antibiotics changed to cefepime/flagyl/linezolid
   History obtained from Medical records
   Patient unable to provide history: Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2203-1-5**] 12:07 AM
   Ceftriaxone - [**2203-1-5**] 01:04 AM
   Cefipime - [**2203-1-5**] 02:43 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   non-verbal
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2203-1-5**] 09:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 94 (85 - 104) bpm
   BP: 98/74(79) {86/45(58) - 107/74(79)} mmHg
   RR: 23 (14 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90 kg (admission): 90 kg
             Total In:
             994 mL
   PO:
             TF:
   IVF:
   994 mL
   Blood products:
   Total out:
                                                                    200 mL
                                                                    820 mL
   Urine:
                                                                    200 mL
                                                                    220 mL
   NG:
   600 mL
   Stool:
   Drains:
   Balance:
                                                                   -200 mL
                                                                    174 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: split tongue, no teeth, trach
   Cardiovascular: (S1: Normal), (S2: Normal), obscured by breath sounds
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : , Rhonchorous: )
   Abdominal: Non-tender, Bowel sounds present, Distended, non-tense but
   firm, bulging flanks
   Skin:  Not assessed, sacral ulcer
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   277 K/uL
   8.2 g/dL
   87 mg/dL
   2.0 mg/dL
   25 mEq/L
   4.0 mEq/L
   59 mg/dL
   103 mEq/L
   138 mEq/L
   25.5 %
   15.4 K/uL
        [image002.jpg]
                             [**2203-1-5**]  02:45 AM
   WBC
   15.4
   Hct
   25.5
   Plt
   277
   Cr
   2.0
   Glucose
   87
   Other labs: PT / PTT / INR:17.4/31.0/1.6, ALT / AST:131/77, Alk Phos /
   T Bili:906/4.7, Amylase / Lipase:/45, Differential-Neuts:89.5 %,
   Lymph:5.6 %, Mono:2.9 %, Eos:1.9 %, Albumin:2.4 g/dL, LDH:186 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:4.5 mg/dL
   Fluid analysis / Other labs: PERITONEAL FLUID
   ANALYSIS
   WBC, Ascites 510* #/uL 0 - 0
   RBC, Ascites 295* #/uL 0 - 0
   Polys 35* % 0 - 0
   Lymphocytes 0 % 0 - 0
   Monocytes 0 % 0 - 0
   Macrophage 65* % 0 - 0
   Microbiology: ascites:
   gram stain negative
   culture pending
   sputm:
   gram stain c/w oral flora
   culture pending
   blood cultures pending
   stool pending
   Assessment and Plan
   43 yo M with anoxic brain injury [**1-4**] cardiac arrest, systolic CHF EF of
   20%, brought into ED from rehab for fevers, abdominal distention,
   decreased urine output.
 LEUKOCYTOSIS
   Febrile at rehab per history but afebrile here. treating empirically
   for SBP. 193 polys in peritoneal fluid is does not unequivocally  meet
   indications for empiric SBP coverage and doesn
t appear to have
   abdominal tenderness but difficult to evaluate. Also with history of
   MRSA bacteremia and completed course of vanc on [**12-19**] which was
   restarted at rehab on [**1-2**] for fevers, ?
 cultures positive for coag +
   staph.
   -obtain micro from OSH
   -continue cefipime/flagyl/linezolid for empiric coverage with concern
   for vancomycin resistant  organisms
   -f/u ascites culture, other cultures from here
 ASCITES / LFT abnormality
   h/o shock liver in [**9-10**], h/o ETOH but unknown to what degree, no known
   history of cirrhosis. [**Month (only) 60**] have had minimal ascites in past but never to
   this extent. also may be related to CHF, LFTs in cholestatic pattern,
   hep serologies in [**Month (only) **]: c/w prior hep a, prior hep B, no hepc. SAAG
   c/w portal hypertension.
   -f/u RUQ ultrasound with dopplers
   -f/u final read of CT
   -f/u current hep serologies
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Has been 0.9 since [**11-10**]. Also with decreased urine output. Ddx
   includes: prerenal/poor forward flow, abdominal compartment syndrome
   -check bladder pressure
   -f/u urine lytes, eos
   -check vanc level
 HEART FAILURE (CHF), SYSTOLIC, CHRONIC, EF 20%
   Acute development of ascites concerning for worsening EF. ? if vanc
   mixed in NS as this is large daily sodium load
   - Repeat ECHO
   - check BNP
   -continue coreg
   -daily weights, strict Is and Os
 Volume status
   [**Month (only) 60**] benefit from diuresis or IVF repletion or large volume para with
   albumin. Also concern that infected and may become septic.
   -ongoing assessment of volume status
 COAGULOPATHY
   Elevated INR. Possibly hepatic congestion vs worsening hepatocellular
   function vs nutritional
   -monitor
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   -continue aspirin, coreg
   -holding statin in setting of LFTs
 ANEMIA, CHRONIC
   baseline mid-high 20s, iron deficient. stable
 ANOXIC BRAIN DAMAGE (ANOXIC ENCEPHALOPATHY, HYPOXIC ISCHEMIC)
   stable
 DIABETES MELLITUS (DM), TYPE II
   ISS
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2203-1-4**] 11:44 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:  sacral uler
   VAP:
   Comments:
   Communication:  Comments: code discussion has been ongoing on prior
   admissions
   Code status: Full code
   Disposition:ICU

2203-01-06 08:01:00 Physician Resident Progress Note
Chief Complaint: Abdominal Distension
   24 Hour Events:
   [**2203-1-5**]
   -Spoke with pt's nurse [**First Name8 (NamePattern2) **] [**Last Name (Titles) 223**] [**Hospital 258**] Healthcare ([**Telephone/Fax (1) 11525**]) Blood
   culture [**12-6**] GPC ([**2203-1-2**]) speciation pending, [**2203-1-4**] pending. Urine
   culture on [**2202-12-31**] grew Proteus >100,000 sensitivities: aztreonam,
   ceftazadime, cefepime, cefoxitin, cefuroxime, cefotetan, gentamicin,
   imipenem, levofloxacin, pipericillin, bactrim. Resistant to
   tetracycline. The nurse says that the pt did not have a fever or any
   focal signs of infection. The only concern was increased abdominal
   distension.
   -BNP checked [**Numeric Identifier 11526**] (no baseline)
   -bladder pressure 14
   -GPC in blood cx
   -US showed sludge/GB thickening, CBD not elevated
   -Echo: worsening 4+ TR/RV dysfunction
   -Liver saw pt, want to repeat tap (are confused by SAAG bc not
   consistent w/ portal hypertension/cardiac/etc...transudative process)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2203-1-5**] 01:04 AM
   Linezolid - [**2203-1-6**] 02:00 AM
   Cefipime - [**2203-1-6**] 03:58 AM
   Metronidazole - [**2203-1-6**] 04:48 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2203-1-6**] 07:59 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2203-1-6**] 08:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.6
C (99.7
   HR: 92 (92 - 104) bpm
   BP: 99/67(75) {91/45(61) - 124/79(109)} mmHg
   RR: 24 (11 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90 kg (admission): 90 kg
    Bladder pressure: 14 (14 - 14) mmHg
   Total In:
                                                                  1,239 mL
                                                                    660 mL
   PO:
   TF:
   IVF:
                                                                  1,239 mL
                                                                    580 mL
   Blood products:
   Total out:
                                                                  1,334 mL
                                                                    560 mL
   Urine:
                                                                    584 mL
                                                                    310 mL
   NG:
                                                                    750 mL
                                                                    250 mL
   Stool:
   Drains:
   Balance:
                                                                    -95 mL
                                                                    100 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: split tongue, no teeth, trach
   Cardiovascular: (S1: Normal), (S2: Normal), obscured by breath sounds,
   blowing holosystolic M at LLSB
   Respiratory / Chest: (Breath Sounds: Wheezes : , Rhonchorous: )
   Abdominal: Non-tender, Bowel sounds present, Distended, bulging flanks
   Skin:  sacral ulcer, no obvious rashes
   Neurologic: Responds to: tactile stimuli, Movement: moving all 4
   extremities
   Labs / Radiology
   314 K/uL
   8.3 g/dL
   79 mg/dL
   2.2 mg/dL
   25 mEq/L
   3.9 mEq/L
   54 mg/dL
   104 mEq/L
   140 mEq/L
   25.9 %
   13.1 K/uL
        [image002.jpg]
                             [**2203-1-5**]  02:45 AM
                             [**2203-1-6**]  03:35 AM
   WBC
   15.4
   13.1
   Hct
   25.5
   25.9
   Plt
   277
   314
   Cr
   2.0
   2.2
   Glucose
   87
   79
   Other labs: PT / PTT / INR:17.4/31.0/1.6, ALT / AST:106/61, Alk Phos /
   T Bili:914/5.7, Amylase / Lipase:/45, Differential-Neuts:89.5 %,
   Lymph:5.6 %, Mono:2.9 %, Eos:1.9 %, Albumin:2.6 g/dL, LDH:137 IU/L,
   Ca++:8.8 mg/dL, Mg++:2.2 mg/dL, PO4:4.7 mg/dL
   Imaging: Imaging: RUQ U/S
   1. Normal flow and waveforms within the hepatic vasculature.
   2. Gallbladder wall thickening and sludge within the gallbladder.
   Gallbladder wall thickening is likely due to third spacing in the
   setting of
   hepatitis.
   3. No intrahepatic biliary ductal dilation. CBD measures 5 mm.
   4. Abdominal ascites.
   Echo [**2203-1-5**]
   The left atrium is mildly dilated. The right atrium is markedly
   dilated. Left ventricular wall thicknesses are normal. The left
   ventricular cavity is moderately dilated. Overall left ventricular
   systolic function is severely depressed (LVEF= 20-30 %) secondary to
   extensive septal, anterior, and apical akinesis with anterior septal
   dyskinesis. The right ventricular cavity is dilated with severe global
   free wall hypokinesis. The ascending aorta is moderately dilated. The
   aortic valve leaflets (3) appear structurally normal with good leaflet
   excursion and no aortic regurgitation. The mitral valve leaflets are
   structurally normal. There is no mitral valve prolapse. Mild (1+)
   mitral regurgitation is seen. The tricuspid valve leaflets are mildly
   thickened. Severe [4+] tricuspid regurgitation is seen. There is
   moderate pulmonary artery systolic hypertension. The main pulmonary
   artery is dilated. The branch pulmonary arteries are dilated. There is
   a small pericardial effusion. There are no echocardiographic signs of
   tamponade. Echocardiographic signs of tamponade may be absent in the
   presence of elevated right sided pressures.
   Compared with the findings of the prior study (images reviewed) of [**2202-11-23**], no major change.
   Microbiology: Microbiology: C diff negative x 2
   Blood cx x 2 from [**2203-1-4**] growing GPCs in clusters
   Sputum oral flora ([**2203-1-4**])
   Urine cx pending
   Ascites fluid: cx pending
   Assessment and Plan
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 ASCITES
   h/o shock liver in [**9-10**], h/o ETOH but unknown to what degree, also may
   be related to CHF, concerning also for cholestatis
 LEUKOCYTOSIS
   treating empirically for SBP, 193 polys
 LIVER FUNCTION ABNORMALITIES
   in predominantly cholestatic pattern, hep serologies in [**Month (only) **]: c/w
   prior hep a, prior hep B, no hepc; h/o shock liver in [**9-10**]
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Has been 0.9 since [**11-10**] but higher previously
 HEART FAILURE (CHF), SYSTOLIC, CHRONIC
   EF 20%
 ANEMIA, CHRONIC
   baseline mid-high 20s, iron deficient
 ANOXIC BRAIN DAMAGE (ANOXIC ENCEPHALOPATHY, HYPOXIC ISCHEMIC)
   [**1-4**] PEA arrest
 COAGULOPATHY
 DEEP VENOUS THROMBOSIS (DVT), UPPER EXTREMITY
   h/o UE dvt, was on lovenox but stooped in setting of bleeding, repeat
   ultrasound did not show clot
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 DIABETES MELLITUS (DM), TYPE II
 BACTEREMIA
   43 yo M with anoxic brain injury [**1-4**] cardiac arrest, systolic CHF EF of
   20%, brought into ED from rehab for fevers, abdominal distention,
   decreased urine output.
 BACTEREMIA
   Febrile at rehab per history but afebrile here. treating empirically
   for SBP. 193 polys in peritoneal fluid is does not unequivocally  meet
   indications for empiric SBP coverage and doesn
t appear to have
   abdominal tenderness but difficult to evaluate. Also with history of
   MRSA bacteremia and completed course of vanc on [**12-19**] which was
   restarted at rehab on [**1-2**] for fevers, ?
 cultures positive for coag +
   staph.
   -obtain micro from OSH
   -continue cefipime/flagyl/linezolid for empiric coverage with concern
   for vancomycin resistant  organisms
   -f/u ascites culture, other cultures from here
 ASCITES / LFT abnormality
   h/o shock liver in [**9-10**], h/o ETOH but unknown to what degree, no known
   history of cirrhosis. [**Month (only) 60**] have had minimal ascites in past but never to
   this extent. also may be related to CHF, LFTs in cholestatic pattern,
   hep serologies in [**Month (only) **]: c/w prior hep a, prior hep B, no hepc. SAAG
   c/w portal hypertension.
   -f/u RUQ ultrasound with dopplers
   -f/u final read of CT
   -f/u current hep serologies
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Has been 0.9 since [**11-10**]. Also with decreased urine output. Ddx
   includes: prerenal/poor forward flow, abdominal compartment syndrome
   -check bladder pressure
   -f/u urine lytes, eos
   -check vanc level
 HEART FAILURE (CHF), SYSTOLIC, CHRONIC, EF 20%
   Acute development of ascites concerning for worsening EF. ? if vanc
   mixed in NS as this is large daily sodium load
   - Repeat ECHO
   - check BNP
   -continue coreg
   -daily weights, strict Is and Os
 Volume status
   [**Month (only) 60**] benefit from diuresis or IVF repletion or large volume para with
   albumin. Also concern that infected and may become septic.
   -ongoing assessment of volume status
 COAGULOPATHY
   Elevated INR. Possibly hepatic congestion vs worsening hepatocellular
   function vs nutritional
   -monitor
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   -continue aspirin, coreg
   -holding statin in setting of LFTs
 ANEMIA, CHRONIC
   baseline mid-high 20s, iron deficient. stable
 ANOXIC BRAIN DAMAGE (ANOXIC ENCEPHALOPATHY, HYPOXIC ISCHEMIC)
   stable
 DIABETES MELLITUS (DM), TYPE II
   ISS
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2203-1-4**] 11:44 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2203-01-07 07:09:00 Physician Resident Progress Note
Chief Complaint: ascites
   24 Hour Events:
 PICC LINE - STOP [**2203-1-6**] 12:37 PM
 ULTRASOUND - At [**2203-1-6**] 02:32 PM
 PARACENTESIS - At [**2203-1-6**] 03:28 PM
   -Tapped 2.5 liters, consistent with SBP, is already on cefepime which
   should cover s. pneumo.
   -Blood cx here growing coag neg staph aureus, awaiting sensitivities
   -NPO after mn for TEE in am
   -U/S of ICD negative for fluid collection
   -Held coreg given bacteremia
   History obtained from Medical records
   Patient unable to provide history: Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2203-1-5**] 01:04 AM
   Linezolid - [**2203-1-7**] 02:00 AM
   Metronidazole - [**2203-1-7**] 03:35 AM
   Cefipime - [**2203-1-7**] 05:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2203-1-6**] 11:24 PM
   Heparin Sodium (Prophylaxis) - [**2203-1-6**] 11:35 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: NPO
   Genitourinary: Foley
   Flowsheet Data as of  [**2203-1-7**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.1
C (98.7
   HR: 93 (87 - 105) bpm
   BP: 95/72(77) {83/57(65) - 114/78(84)} mmHg
   RR: 0 (0 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.3 kg (admission): 90 kg
   Height: 70 Inch
    Bladder pressure: 14 (14 - 14) mmHg
   Total In:
                                                                  1,320 mL
                                                                    670 mL
   PO:
   TF:
   IVF:
                                                                  1,240 mL
                                                                    570 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                    972 mL
                                                                    210 mL
   Urine:
                                                                    647 mL
                                                                    210 mL
   NG:
                                                                    325 mL
   Stool:
   Drains:
   Balance:
                                                                    348 mL
                                                                    460 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 99%
   ABG: ///24/
   Physical Examination
   Head, Ears, Nose, Throat: OG tube, no teeth, split tongue
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   308 K/uL
   8.7 g/dL
   95 mg/dL
   2.3 mg/dL
   24 mEq/L
   3.9 mEq/L
   53 mg/dL
   104 mEq/L
   139 mEq/L
   27.6 %
   13.8 K/uL
        [image002.jpg]
                             [**2203-1-5**]  02:45 AM
                             [**2203-1-6**]  03:35 AM
                             [**2203-1-7**]  04:38 AM
   WBC
   15.4
   13.1
   13.8
   Hct
   25.5
   25.9
   27.6
   Plt
   277
   314
   308
   Cr
   2.0
   2.2
   2.3
   Glucose
   87
   79
   95
   Other labs:
    PT / PTT / INR:  18.5 / 31.5 / 1.7,
    ALT / AST: 81 / 46,
   Alk Phos / T Bili: 876 / 6.6,
   Differential-Neuts:88.4 %, Lymph:6.2 %, Mono:3.3 %, Eos:1.9 %,
   Albumin:2.6 g/dL, LDH:137 IU/L, Ca++:9.1 mg/dL, Mg++:2.1 mg/dL, PO4:4.4
   mg/dL
   Fluid analysis / Other labs: .
   ASCITES
   [1][image003.gif]  ASCITES ANALYSIS
                                     WBC
                                     RBC
                                    Polys
                                   Lymphs
                                    Monos
                                   Macroph
   [2][**2203-1-6**] 04:21PM
                                    560*
                                    220*
                                     71*
                                     1*
                                     6*
                                     22*
   [3][**2203-1-4**] 04:10PM
                                    510*
                                    295*
                                     35*
                                      0
                                      0
                                     65*
   [4][image003.gif]  ASCITES CHEMISTRY
                                   TotPro
                                   Glucose
                                   LD(LDH)
                                   Albumin
   [5][**2203-1-6**] 04:21PM
                                     4.7
                                     81
                                     134
                                     1.9
   [6][**2203-1-4**] 04:10PM
                                     4.7
   157
                                     1.9
   Imaging: .
   Ultrasound
   IMPRESSION: Subcutaneous edema, but no fluid collections identified.
   Possible small hematoma medial to the pacer.
   Microbiology: .
   [7][**2203-1-7**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [8][**2203-1-6**]
   CATHETER TIP-IV
   WOUND CULTURE-PENDING
   INPATIENT
   [9][**2203-1-6**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [10][**2203-1-6**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [11][**2203-1-6**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [12][**2203-1-6**]
   FLUID RECEIVED IN BLOOD CULTURE BOTTLES
   Fluid Culture in Bottles-PENDING
   INPATIENT
   [13][**2203-1-5**]
   URINE
   URINE CULTURE-PENDING
   INPATIENT
   [14][**2203-1-5**]
   STOOL
   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
   INPATIENT
   [15][**2203-1-5**]
   SPUTUM
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-PRELIMINARY {PSEUDOMONAS
   AERUGINOSA}
   INPATIENT
   [16][**2203-1-5**]
   STOOL
   FECAL CULTURE-PENDING; CAMPYLOBACTER CULTURE-PENDING; CLOSTRIDIUM
   DIFFICILE TOXIN A & B TEST-FINAL
   INPATIENT
   [17][**2203-1-5**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [18][**2203-1-4**]
   PERITONEAL FLUID
   GRAM STAIN-FINAL; FLUID CULTURE-PRELIMINARY; ANAEROBIC
   CULTURE-PRELIMINARY
   EMERGENCY [**Hospital1 **]
   [19][**2203-1-4**]
   BLOOD CULTURE
   Blood Culture, Routine-PRELIMINARY {GRAM POSITIVE COCCUS(COCCI)};
   Aerobic Bottle Gram Stain-FINAL; Anaerobic Bottle Gram Stain-FINAL
   EMERGENCY [**Hospital1 **]
   [20][**2203-1-4**]
   BLOOD CULTURE
   Blood Culture, Routine-PRELIMINARY {STAPHYLOCOCCUS, COAGULASE
   NEGATIVE}; Anaerobic Bottle Gram Stain-FINAL
   EMERGENCY [**Hospital1 **]
   Assessment and Plan
 BACTEREMIA
 ASCITES
   h/o shock liver in [**9-10**], h/o ETOH but unknown to what degree, also may
   be related to CHF, concerning also for cholestatis
 LIVER FUNCTION ABNORMALITIES
   in predominantly cholestatic pattern, hep serologies in [**Month (only) **]: c/w
   prior hep a, prior hep B, no hepc; h/o shock liver in [**9-10**]
 LEUKOCYTOSIS
   treating empirically for SBP, 193 polys
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Has been 0.9 since [**11-10**] but higher previously
 HEART FAILURE (CHF), SYSTOLIC, CHRONIC
   EF 20%
 ANEMIA, CHRONIC
   baseline mid-high 20s, iron deficient
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 COAGULOPATHY
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 DIABETES MELLITUS (DM), TYPE II
 ANOXIC BRAIN DAMAGE (ANOXIC ENCEPHALOPATHY, HYPOXIC ISCHEMIC)
   [**1-4**] PEA arrest
 DEEP VENOUS THROMBOSIS (DVT), UPPER EXTREMITY
   h/o UE dvt, was on lovenox but stooped in setting of bleeding, repeat
   ultrasound did not show clot
   43 yo M with anoxic brain injury [**1-4**] cardiac arrest, systolic CHF EF of
   20%, brought into ED from rehab for fevers, abdominal distention,
   decreased urine output.
 BACTEREMIA
   Pt with 4/4 blood cultures positive with GPCs in clusters, presumably
   from a line or ICD infection. DDx includes VISA. Micro data from OSH
   growing coag negative staph
 bottles from [**2202-12-31**].
   -Pull PICC line and culture tip
   -Agree with continuing Linezolid
   -continue cefipime/flagyl/linezolid for empiric coverage with concern
   for vancomycin resistant  organisms
   -Consider adding ciprofloxacin for pseudomonas double coverage
   -f/u ascites culture
 ASCITES / LFT abnormality
   I suspect his ascites and anasarca is most likely secondary to subacute
   on chronic congestive heart failure, perhaps exacerbated by high sodium
   load from weeks of IV antibiotics. This is supported by BNP of [**Numeric Identifier 7462**].
   Second possibility includes biliary obstruction leading to hepatitis
   and decompensated liver failure, although U/S imaging does not support
   this dx. Malignant ascites possible however no signs of cancer.
   -Repeat tap to confirm high suspicion of cardiac etiology
   -Large volume paracentesis with albumin support
   -Check peritoneal cytology
   -f/u current hep serologies
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Has been 0.9 since [**11-10**]. Also with decreased urine output. Ddx
   includes: prerenal/poor forward flow, abdominal compartment syndrome.
   Urine lytes borderline, not helpful. Vanc level wnl.
   -Monitor
   -Would expect cr to improve after diuresis
 HEART FAILURE (CHF), SYSTOLIC, CHRONIC, EF 20%
   Acute development of ascites likely secondary to CHF from high sodium
   load likely from abx. Repeat echo with no sig change.
   -Hold coreg in setting of high grade bacteremia
   -daily weights, strict Is and Os
 COAGULOPATHY
   Elevated INR. Possibly hepatic congestion vs worsening hepatocellular
   function vs nutritional
   -monitor
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   -continue aspirin, hold coreg
   -holding statin in setting of LFTs
 ANEMIA, CHRONIC
   baseline mid-high 20s, iron deficient. stable
 ANOXIC BRAIN DAMAGE (ANOXIC ENCEPHALOPATHY, HYPOXIC ISCHEMIC)
   stable
 DIABETES MELLITUS (DM), TYPE II
   ISS
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2203-1-6**] 12:37 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
References
   1. javascript:command('LHAD','expand')
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22);
   4. javascript:command('LCAA','expand')
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22);
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   8. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
   9. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
  10. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);
  11. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22,640,400,50,50,1);
  12. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22,640,400,50,50,1);
  13. JavaScript:parent.POPUP(self,%22_WEBTAG=_7%22,640,400,50,50,1);
  14. JavaScript:parent.POPUP(self,%22_WEBTAG=_8%22,640,400,50,50,1);
  15. JavaScript:parent.POPUP(self,%22_WEBTAG=_9%22,640,400,50,50,1);
  16. JavaScript:parent.POPUP(self,%22_WEBTAG=_10%22,640,400,50,50,1);
  17. JavaScript:parent.POPUP(self,%22_WEBTAG=_11%22,640,400,50,50,1);
  18. JavaScript:parent.POPUP(self,%22_WEBTAG=_12%22,640,400,50,50,1);
  19. JavaScript:parent.POPUP(self,%22_WEBTAG=_13%22,640,400,50,50,1);
  20. JavaScript:parent.POPUP(self,%22_WEBTAG=_14%22,640,400,50,50,1);

2203-01-08 07:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2203-1-8**] 02:12 AM
   Overnight: Patient got albumin per SBP protocol.  A TEE was done that
   was negative for veg.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2203-1-8**] 12:36 AM
   Cefipime - [**2203-1-8**] 03:04 AM
   Metronidazole - [**2203-1-8**] 04:27 AM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2203-1-7**] 11:08 PM
   Heparin Sodium (Prophylaxis) - [**2203-1-7**] 11:22 PM
   Lorazepam (Ativan) - [**2203-1-8**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2203-1-8**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.4
C (97.6
   HR: 98 (88 - 104) bpm
   BP: 105/67(76) {82/56(66) - 208/154(161)} mmHg
   RR: 17 (10 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 86.7 kg (admission): 90 kg
   Height: 70 Inch
           Total In:
                                                                  1,764 mL
                                                                    704 mL
   PO:
           TF:
                                                                      6 mL
                                                                     88 mL
   IVF:
                                                                  1,240 mL
                                                                    569 mL
   Blood products:
                                                                    453 mL
                                                                     48 mL
   Total out:
                                                                    725 mL
                                                                    170 mL
   Urine:
                                                                    725 mL
                                                                    170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,039 mL
                                                                    534 mL
   Respiratory support
   O2 Delivery Device: T-piece
   SpO2: 100%
   ABG: ///20/
   Physical Examination
   HEENT: Trach in place
   CV: SM at sternal border, regular rate
   Pulm: Coarse BS
   Abd: NT, +distension,  NABS
   Neuro: Awake, responds to noxious stimuli, moves extremities, but does
   not follow commands
   Labs / Radiology
   252 K/uL
   7.4 g/dL
   103 mg/dL
   2.0 mg/dL
   20 mEq/L
   3.7 mEq/L
   46 mg/dL
   106 mEq/L
   139 mEq/L
   23.0 %
   13.0 K/uL
        [image002.jpg]
                             [**2203-1-5**]  02:45 AM
                             [**2203-1-6**]  03:35 AM
                             [**2203-1-7**]  04:38 AM
                             [**2203-1-8**]  02:02 AM
   WBC
   15.4
   13.1
   13.8
   13.0
   Hct
   25.5
   25.9
   27.6
   23.0
   Plt
   277
   314
   308
   252
   Cr
   2.0
   2.2
   2.3
   2.0
   Glucose
   87
   79
   95
   103
   Other labs: PT / PTT / INR:20.2/36.2/1.9, ALT / AST:51/36, Alk Phos / T
   Bili:598/5.4, Amylase / Lipase:/45, Differential-Neuts:88.4 %,
   Lymph:6.2 %, Mono:3.3 %, Eos:1.9 %, Albumin:2.6 g/dL, LDH:137 IU/L,
   Ca++:8.5 mg/dL, Mg++:1.9 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 BACTEREMIA: US of ICD negative for infection, TEE negative for
   vegatations.  Two sets of blood cx from [**1-4**] w/ coag neg staph, one
   bottle sig for coag pos staph.  Picc line neg for growth.
   -- Cont linezolid with concern for vancomycin resistant organism
   -- Cont cefepime/flagyl
   -- F/u blood cultures (surveillance cx have since shown no growth)
   -- F/u ascites cultures
   -- Follow fever curve
 ASCITES/TRANSAMINITIS: While SAAG not c/w HF related hepatitis, BNP
   elevated and echo remarkable for worsening RHF (severe TR) and poor EF
   (20%).  While his rise in LFTs are consistent w/ cholestatic picture,
   US w/o evidence of biliary obstruction.  INR elevated secondary to
   nutrition vs synthetic dysfunction. Previous serologies: c/w prior hep
   a, prior hep B, no hepc; h/o shock liver in [**9-10**].
   -- F/u ascites cultures and cytology
   -- Cont current abx (see above): treating staph bacteremia and SBP
   empirically
   -- Holding off on diuresis given bacteremia
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF): Cr improving.
   Likely related to poor forward flow.
   -- Trend Is/Os
   -- Trend Cr
   -- Holding ace-i
   -- Renally dose meds
 HEART FAILURE (CHF), SYSTOLIC, CHRONIC: EF 20% on TEE; Severe TR.
   -- Cont asa
   -- Restart coreg at low dose
   -- Holding ace-I for ARF, holding statin for transaminitis
 ANEMIA, CHRONIC: Repeat hct stable.  Baseline mid-high 20s, iron
   deficient
   -- Continue to trend hct
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   -- Cont asa, restart coreg at low dose
   -- Holding ace-i/statin as outlined above
 DIABETES MELLITUS (DM), TYPE II
   -- ISS
 ANOXIC BRAIN DAMAGE (ANOXIC ENCEPHALOPATHY, HYPOXIC ISCHEMIC)
   [**1-4**] PEA arrest
 DEEP VENOUS THROMBOSIS (DVT), UPPER EXTREMITY
   h/o UE dvt, was on lovenox but stooped in setting of bleeding, repeat
   ultrasound did not show clot
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2203-1-7**] 11:24 PM 20 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2203-1-7**] 07:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2203-01-08 12:14:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   43M anoxic brain injury s/p VFA during VT abalation, DCM (20%), MRSA
   bacteremia, tongue biting s/p total dental extraction, ?chronic liver
   disease. Reportedly febrile at rehab with increasing abd girth, +BCx
   [**1-6**] here, proteus UTI, peritonitis on cefepime / linezolid / flagyl,
   has progressive ARF. LVP -3L, given albumin for SBP. SCN / SA on BCX.
   24 Hour Events:
   TEE - EF 20%, HK LV, no veg, TR gradient 53 by TTE
   Albumin following 2 L paracentesis
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2203-1-8**] 12:36 AM
   Cefipime - [**2203-1-8**] 03:04 AM
   Metronidazole - [**2203-1-8**] 04:27 AM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2203-1-7**] 11:08 PM
   Lorazepam (Ativan) - [**2203-1-8**] 02:00 AM
   Heparin Sodium (Prophylaxis) - [**2203-1-8**] 08:00 AM
   Other medications:
   Reviewed
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2203-1-8**] 12:04 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98.1
   HR: 100 (88 - 104) bpm
   BP: 100/64(73) {82/56(67) - 208/154(161)} mmHg
   RR: 12 (10 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 86.7 kg (admission): 90 kg
   Height: 70 Inch
           Total In:
                                                                  1,764 mL
                                                                    904 mL
   PO:
           TF:
                                                                      6 mL
                                                                    188 mL
   IVF:
                                                                  1,240 mL
                                                                    619 mL
   Blood products:
                                                                    453 mL
                                                                     48 mL
   Total out:
                                                                    725 mL
                                                                    320 mL
   Urine:
                                                                    725 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,039 mL
                                                                    584 mL
   Respiratory support
   O2 Delivery Device: T-piece, Tracheostomy tube
   SpO2: 98%
   ABG: ///20/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Trach
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: Coarse breath sounds
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm, Neurologic: No(t) Attentive, No(t) Follows simple
   commands, Responds to: Not assessed, Movement: Not assessed, No(t)
   Sedated, Tone: Not assessed, arousable, moves 4 extrem
   Labs / Radiology
   7.4 g/dL
   252 K/uL
   103 mg/dL
   2.0 mg/dL
   20 mEq/L
   3.7 mEq/L
   46 mg/dL
   106 mEq/L
   139 mEq/L
   26.0 %
   13.0 K/uL
        [image002.jpg]
                             [**2203-1-5**]  02:45 AM
                             [**2203-1-6**]  03:35 AM
                             [**2203-1-7**]  04:38 AM
                             [**2203-1-8**]  02:02 AM
                             [**2203-1-8**]  09:00 AM
   WBC
   15.4
   13.1
   13.8
   13.0
   Hct
   25.5
   25.9
   27.6
   23.0
   26.0
   Plt
   277
   314
   308
   252
   Cr
   2.0
   2.2
   2.3
   2.0
   Glucose
   87
   79
   95
   103
   Other labs: PT / PTT / INR:20.2/36.2/1.9, ALT / AST:51/36, Alk Phos / T
   Bili:598 (down from 800s)/5.4 (down from >6), Amylase / Lipase:/45,
   Differential-Neuts:88.4 %, Lymph:6.2 %, Mono:3.3 %, Eos:1.9 %,
   Albumin:2.6 g/dL, LDH:137 IU/L, Ca++:8.5 mg/dL, Mg++:1.9 mg/dL, PO4:4.1
   mg/dL
   Imaging: CXR - more pulm edema
   Microbiology: Ascites - cx pending from [**1-6**]
   BC 2 sets of 8 grew CNS, 1 bottle grew CPS, all culures done [**1-4**]
   Picc line tip negative
   Assessment and Plan
 BACTEREMIA
 ASCITES
   h/o shock liver in [**9-10**], h/o ETOH but unknown to what degree, also may
   be related to CHF, concerning also for cholestatis
 LIVER FUNCTION ABNORMALITIES
   in predominantly cholestatic pattern, hep serologies in [**Month (only) **]: c/w
   prior hep a, prior hep B, no hepc; h/o shock liver in [**9-10**]
 LEUKOCYTOSIS - treating empirically for SBP, 193 polys
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Has been 0.9 since [**11-10**] but higher previously
 HEART FAILURE (CHF), SYSTOLIC, CHRONIC
   EF 20%
 ANEMIA, CHRONIC
   baseline mid-high 20s, iron deficient
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 COAGULOPATHY
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 DIABETES MELLITUS (DM), TYPE II
 ANOXIC BRAIN DAMAGE (ANOXIC ENCEPHALOPATHY, HYPOXIC ISCHEMIC)
   [**1-4**] PEA arrest
 DEEP VENOUS THROMBOSIS (DVT), UPPER EXTREMITY
   h/o UE dvt, was on lovenox but stooped in setting of bleeding, repeat
   ultrasound did not show clot
   45M anoxic brain injury s/p VFA during VT abalation, DCM (20%), MRSA
   bacteremia, tongue biting s/p total dental extraction, ?chronic liver
   disease. Reportedly febrile at rehab with increasing abd girth, +BCx,
   proteus UTI, peritonitis on cefepime / linezolid / flagyl, has
   progressive ARF. ascites, given albumin for SBP. SCN / SA on BCX.
   - high grade bacteremia, proteus uti, peritonitis, await sensitivities,
   c/w broad spectrum abx w linezolid / cefepime / flagyl
   - hepatitis/new cirrhosis likely [**1-4**] Right heart failure
   - Acute renal failure, follow closely
   - Hypotension/shock, septic vs hypovolemic in setting of poor LVEF and
   4+ TR and PH
   - congestive heart failure, resume coreg and asa
   - chronic resp failure, trached, on T-piece O2
   Family meeting yesterday
 per notes
 situation reviewed with brother
   and sister in 60 minute family meeting, they are aware of his poor
   neurologic prognosis and will continue to meet with team and SW to help
   support patient and mother during this hospitalization.
   Remainder of plan as outlined in housestaff
s notes.
   ICU Care
   Nutrition: TF at 20 cc/hr
   NovaSource Renal (Full) - [**2203-1-7**] 11:24 PM 20 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2203-1-7**] 07:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 35

2203-01-09 06:53:00 Physician Resident Progress Note
Chief Complaint: Increased abdominal distension
   24 Hour Events:
 STOOL CULTURE - At [**2203-1-8**] 10:39 PM
   - gave vitamin k po per hepatology
   - blood cx staph sensitive to vanc (d/c'd linezolid restarted vanc)
   - restarted home coreg but at a low dose
   - liver rec 1gm/kg albumin for sunday ([**1-9**])
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2203-1-8**] 02:50 PM
   Vancomycin - [**2203-1-8**] 05:27 PM
   Cefipime - [**2203-1-9**] 03:14 AM
   Metronidazole - [**2203-1-9**] 03:14 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2203-1-8**] 11:07 PM
   Lorazepam (Ativan) - [**2203-1-9**] 02:16 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2203-1-9**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.6
C (99.7
   HR: 101 (89 - 102) bpm
   BP: 103/62(71) {90/36(57) - 130/106(112)} mmHg
   RR: 22 (8 - 27) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 86.7 kg (admission): 90 kg
   Height: 70 Inch
             Total In:
                                                                  2,182 mL
                                                                    476 mL
   PO:
             TF:
                                                                    554 mL
                                                                    258 mL
   IVF:
                                                                  1,440 mL
                                                                    218 mL
   Blood products:
                                                                     48 mL
   Total out:
                                                                  1,105 mL
                                                                    175 mL
   Urine:
                                                                    605 mL
                                                                    175 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,077 mL
                                                                    301 mL
   Respiratory support
   O2 Delivery Device: T-piece
   SpO2: 100%
   ABG: ///21/
   Physical Examination
   HEENT: Trach in place, occasionally tracks with eyes
   CV: SM at sternal border, RRR, no RG
   Pulm: Coarse/rhonchorous BS
   Abd: NT, +distension,  +BS
   Neuro: Awake, responds to tactile stimuli, moves extremities, but does
   not follow commands
   Ext: Trace to 1+ bl pitting edema
   Labs / Radiology
   294 K/uL
   7.8 g/dL
   81 mg/dL
   1.8 mg/dL
   21 mEq/L
   3.7 mEq/L
   44 mg/dL
   112 mEq/L
   143 mEq/L
   24.2 %
   17.4 K/uL
        [image002.jpg]
                             [**2203-1-5**]  02:45 AM
                             [**2203-1-6**]  03:35 AM
                             [**2203-1-7**]  04:38 AM
                             [**2203-1-8**]  02:02 AM
                             [**2203-1-8**]  09:00 AM
                             [**2203-1-9**]  02:32 AM
   WBC
   15.4
   13.1
   13.8
   13.0
   17.4
   Hct
   25.5
   25.9
   27.6
   23.0
   26.0
   24.2
   Plt
   277
   314
   308
   252
   294
   Cr
   2.0
   2.2
   2.3
   2.0
   1.8
   Glucose
   87
   79
   95
   103
   81
   Other labs: PT / PTT / INR:19.4/34.8/1.8, ALT / AST:48/41, Alk Phos / T
   Bili:620/4.0, Amylase / Lipase:/45, Differential-Neuts:88.4 %,
   Lymph:6.2 %, Mono:3.3 %, Eos:1.9 %, Albumin:2.6 g/dL, LDH:270 IU/L,
   Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Imaging: CXR AP [**2203-1-8**]:
   FINDINGS: As compared to the previous examination, there is no relevant
   change. The tracheostomy tube is in unchanged position. Unchanged
   course of
   pacemaker leads. Unchanged small lung volumes and cardiomegaly without
   signs
   of overt pulmonary edema. No evidence of pleural effusions, mild
   retrocardiac
   atelectasis.
   Microbiology: Blood cx x 2 from [**1-6**], [**1-7**], and [**1-8**] still pending. Sputum
   shows cefepime resistant psuedamonas, sensitive to meropenem.
   Pt is a 43 y.o male with h.o anoxic brain injury(non-verbal,
   PEG/Trach), s/p MI, s/p cardiac arrest EF 20%, HTN, HL, DM, recent MRSA
   bacteremia who presents with increased abdominal swelling,
   transaminitis, ARF.
 BACTEREMIA: US of ICD negative for infection, TEE negative for
   vegatations, PICC line negative for growth, however intracardiac device
   is a concerning source for occult infection.  Two sets of blood cx from
   [**1-4**] w/ coag neg staph, one bottle sig for coag pos staph all
   vancomycin sensitive.
   -- ID consult in am for abx duration
   -- Continue vancomycin
   -- DC flagyl as no culture data to support its need
   -- DC cefepime and START meropenem as both sputum psuedomonas and urine
   proteus are sensitive to [**Last Name (un) 430**].
   -- F/u blood cultures (surveillance cx have since shown no growth)
   -- PICC line in AM for likely long course of antibiotics.
   -- F/u ascites cultures
 ASCITES/TRANSAMINITIS: Likely secondary to progressive severe sCHF
   leading to congestive hepatopathy however LFTs do not quite fit this
   picture.  While LFT
s not c/w CHF, BNP elevated and echo remarkable for
   severe RHF (severe TR) and poor EF (20%).  While his rise in LFTs are
   consistent w/ cholestatic picture, US w/o evidence of biliary
   obstruction.  INR elevated secondary to nutrition vs synthetic
   dysfunction. Previous serologies: c/w prior hep a, prior hep B, no
   hepc; h/o shock liver in [**9-10**].
   -- F/u ascites cultures and cytology
   -- Cont abx (see above): treating staph bacteremia, uti, hap and SBP
   empirically
   -- Holding off on diuresis given bacteremia
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF): Cr improving.
   Likely related to poor forward flow.
   -- Trend Is/Os
   -- Trend Cr
   -- Holding ace-i
   -- Renally dose meds
 HEART FAILURE (CHF), SYSTOLIC, CHRONIC: EF 20% on TEE; Severe TR.
   -- Cont asa
   -- Increase coreg to Carvedilol 6.25 mg PO/NG [**Hospital1 **]
   -- Holding ace-I for ARF, holding statin for transaminitis
 ANEMIA, CHRONIC: Repeat hct stable.  Baseline mid-high 20s, iron
   deficient
   -- Continue to trend hct
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   -- Cont asa, coreg
   -- Holding ace-i/statin as outlined above
 DIABETES MELLITUS (DM), TYPE II
   -- ISS
 ANOXIC BRAIN DAMAGE (ANOXIC ENCEPHALOPATHY, HYPOXIC ISCHEMIC)
   [**1-4**] PEA arrest
 DEEP VENOUS THROMBOSIS (DVT), UPPER EXTREMITY
   h/o UE dvt, was on lovenox but stooped in setting of bleeding, repeat
   ultrasound did not show clot
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2203-1-7**] 11:24 PM 20 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2203-1-7**] 07:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2203-01-09 11:56:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Seen by hepatology - nothing to offer longterm, rec albumin
   CNS and CPS [**Last Name (un) **] to vanc, linezolid d/c'd
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2203-1-8**] 02:50 PM
   Cefipime - [**2203-1-9**] 03:14 AM
   Metronidazole - [**2203-1-9**] 03:14 AM
   Vancomycin - [**2203-1-9**] 08:06 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2203-1-9**] 02:16 AM
   Heparin Sodium (Prophylaxis) - [**2203-1-9**] 08:12 AM
   Other medications:
   Reviewed
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2203-1-9**] 11:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.9
C (98.4
   HR: 95 (89 - 102) bpm
   BP: 102/63(71) {90/36(57) - 130/106(112)} mmHg
   RR: 24 (8 - 27) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 86.7 kg (admission): 90 kg
   Height: 70 Inch
             Total In:
                                                                  2,182 mL
                                                                  1,065 mL
   PO:
             TF:
                                                                    554 mL
                                                                    429 mL
   IVF:
                                                                  1,440 mL
                                                                    466 mL
   Blood products:
                                                                     48 mL
   Total out:
                                                                  1,105 mL
                                                                    332 mL
   Urine:
                                                                    605 mL
                                                                    332 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,077 mL
                                                                    733 mL
   Respiratory support
   O2 Delivery Device: T-piece
   SpO2: 99%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed, withdraws
   to tactile stimulation
   Labs / Radiology
   7.8 g/dL
   294 K/uL
   81 mg/dL
   1.8 mg/dL
   21 mEq/L
   3.7 mEq/L
   44 mg/dL
   112 mEq/L
   143 mEq/L
   24.2 %
   17.4 K/uL
        [image002.jpg]
                             [**2203-1-5**]  02:45 AM
                             [**2203-1-6**]  03:35 AM
                             [**2203-1-7**]  04:38 AM
                             [**2203-1-8**]  02:02 AM
                             [**2203-1-8**]  09:00 AM
                             [**2203-1-9**]  02:32 AM
   WBC
   15.4
   13.1
   13.8
   13.0
   17.4
   Hct
   25.5
   25.9
   27.6
   23.0
   26.0
   24.2
   Plt
   277
   314
   308
   252
   294
   Cr
   2.0
   2.2
   2.3
   2.0
   1.8
   Glucose
   87
   79
   95
   103
   81
   Other labs: PT / PTT / INR:19.4/34.8/1.8, ALT / AST:48/41, Alk Phos / T
   Bili:620/4.0, Amylase / Lipase:/45, Differential-Neuts:88.4 %,
   Lymph:6.2 %, Mono:3.3 %, Eos:1.9 %, Albumin:2.6 g/dL, LDH:270 IU/L,
   Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Microbiology: CXR - PSA resist to cefep and zosyn, [**Last Name (un) **] to
   [**Last Name (un) 430**]/gent/tobra
   Assessment and Plan
   45M anoxic brain injury s/p VFA during VT abalation, DCM (20%), MRSA
   bacteremia, tongue biting s/p total dental extraction, ?chronic liver
   disease. Reportedly febrile at rehab with increasing abd girth, +BCx,
   proteus UTI, peritonitis on cefepime / linezolid / flagyl, has
   progressive ARF. ascites, given albumin for SBP. SCN / SA on BCX.
   Sepsis
    - high grade gram pos bacteremia, 3 surveillance cx from 2/4-6 thusfar
   negative. Concern for pacer wires
   -  resist pseudomonas in sputum (new?), proteus uti, peritonitis,  c/w
   broad spectrum abx
   -  agree with Vanc / flagyl and switch cefepime to [**Last Name (un) 430**] given pseud
   sensi panel
   -  ID consult in AM to help with Abx duration given recurrence
   -  f/u ascites cx
   Hepatitis/new cirrhosis
   - cirrhosis related to hx of EtOH use, right heart failure
   - appreciate liver recs
   Acute renal failure, follow closely
   - Hypotension/shock, septic vs hypovolemic in setting of poor LVEF and
   4+ TR and PH
   Congestive heart failure, resume coreg and asa
   Chronic resp failure, trached, on T-piece O2
   Family meeting [**1-7**]
 per notes
 situation reviewed with brother and
   sister in 60 minute family meeting, they are aware of his poor
   neurologic prognosis and will continue to meet with team and SW to help
   support patient and mother during this hospitalization.
    Remainder of plan as outlined in Dr. [**Last Name (STitle) 11548**]
s notes.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2203-1-7**] 07:30 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2203-01-10 06:55:00 Physician Resident Progress Note
Chief Complaint: ascites, SBP
   24 Hour Events:
 EKG - At [**2203-1-9**] 10:56 PM
   - received 1gm/kg albumin in ~150cc
   - developed some tachypnea to the 30s and looked uncomfortable with a
   grimace. ABG pH 7.43, pCO2 38, pO2 94, HCO3 26, CXR looked not
   significantly changed per radiologytrop 0.07, EKG unchanged from prior.
   Possibly secondary to pain? Given tramadol and went to sleep.
   - DC'd cefepime because pseudomonas was resistant to cefepime
   - Started meropenem to cover psuedomonas and proteus UTI
   - Secretions have increased in frequency
   - PICC order placed
   History obtained from Medical records
   Patient unable to provide history: Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2203-1-8**] 02:50 PM
   Cefipime - [**2203-1-9**] 03:14 AM
   Metronidazole - [**2203-1-9**] 03:14 AM
   Vancomycin - [**2203-1-9**] 08:14 PM
   Meropenem - [**2203-1-10**] 01:30 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2203-1-9**] 11:10 PM
   Lorazepam (Ativan) - [**2203-1-10**] 02:49 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: Tube feeds
   Genitourinary: Foley
   Flowsheet Data as of  [**2203-1-10**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 38.2
C (100.8
   Tcurrent: 38.1
C (100.5
   HR: 95 (93 - 111) bpm
   BP: 103/66(75) {87/51(60) - 182/123(137)} mmHg
   RR: 24 (3 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 86.7 kg (admission): 90 kg
   Height: 70 Inch
             Total In:
                                                                  2,422 mL
                                                                    383 mL
   PO:
             TF:
                                                                    912 mL
                                                                    255 mL
   IVF:
                                                                    990 mL
                                                                    128 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    699 mL
                                                                    110 mL
   Urine:
                                                                    599 mL
                                                                    110 mL
   NG:
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                  1,723 mL
                                                                    273 mL
   Respiratory support
   O2 Delivery Device: T-piece
   SpO2: 100%
   ABG: 7.43/38/94.[**Numeric Identifier 128**]/24/0
   PaO2 / FiO2: 235
   Physical Examination
   Head, Ears, Nose, Throat: no teeth, split tongue
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   274 K/uL
   8.5 g/dL
   108 mg/dL
   1.8 mg/dL
   24 mEq/L
   3.9 mEq/L
   42 mg/dL
   112
   144 mEq/L
   26.7 %
   14.1 K/uL
        [image002.jpg]
                             [**2203-1-5**]  02:45 AM
                             [**2203-1-6**]  03:35 AM
                             [**2203-1-7**]  04:38 AM
                             [**2203-1-8**]  02:02 AM
                             [**2203-1-8**]  09:00 AM
                             [**2203-1-9**]  02:32 AM
                             [**2203-1-9**]  10:30 PM
                             [**2203-1-9**]  10:40 PM
                             [**2203-1-10**]  03:21 AM
   WBC
   15.4
   13.1
   13.8
   13.0
   17.4
   14.1
   Hct
   25.5
   25.9
   27.6
   23.0
   26.0
   24.2
   26.7
   Plt
   277
   314
   308
   [**Telephone/Fax (3) 11551**]
   Cr
   2.0
   2.2
   2.3
   2.0
   1.8
   1.8
   TropT
   0.07
   TCO2
   26
   Glucose
   87
   79
   95
   103
   81
   98
   108
   Other labs: PT / PTT / INR:17.7/34.9/1.6 (from 1.8), CK / CKMB /
   Troponin-T:101/2/0.07, ALT / AST:39/26 (from 48/41), Alk Phos / T
   Bili:571/3.8 (from 620/4.0), Ca++:9.0 mg/dL, Mg++:2.3 mg/dL, PO4:3.3
   mg/dL
   Fluid analysis / Other labs: .
   Imaging: .
   Microbiology: .
   No growth in blood cultures from [**1-5**].
   Blood cx from [**1-4**] with MRSA, coag negative staph x2 also meth
   resistant, all sensitive to [**Month/Year (2) 898**]
   Sputum cx: MRSA and pseudomonas sensitive to [**Last Name (un) 430**]
   Assessment and Plan
   45M anoxic brain injury s/p VFA during VT abalation, DCM (20%), MRSA
   bacteremia, tongue biting s/p total dental extraction, ?chronic liver
   disease. Reportedly febrile at rehab with increasing abd girth, +BCx,
   proteus UTI, peritonitis on [**Last Name (un) 898**]/[**Last Name (un) 430**] for coag negative staph, MRSA
   bacteremia and pseudomonas/MRSA in sputum.
 SEPSIS
   Bactermia: Coag neg staph x 2, MRSA, Sputum with MRSA and pseudomonas.
   SBP. Still most likely [**1-4**] PICC. Though continued concern for pacer
   wires. TEE negative.
   --cont [**First Name9 (NamePattern2) 898**] [**Last Name (un) 430**]: hold [**Last Name (un) 898**] today and change [**Last Name (un) 430**] to 1g q8 per pharm
   --Appreciate ID recs re length of treatment given recurrence and also
   source control
   -- f/u ascites cx
   -- F/u blood cultures (surveillance cx have since shown no growth)
   -- PICC line ordered.
 ASCITES/TRANSAMINITIS: Likely secondary to progressive severe sCHF
   leading to congestive hepatopathy however LFTs do not quite fit this
   picture.  While LFT
s not c/w CHF, BNP elevated and echo remarkable for
   severe RHF (severe TR) and poor EF (20%).  While his rise in LFTs are
   consistent w/ cholestatic picture, US w/o evidence of biliary
   obstruction.  INR elevated secondary to nutrition vs synthetic
   dysfunction. Previous serologies: c/w prior hep a, prior hep B, no
   hepc; h/o shock liver in [**9-10**].
   --diuresis with lasix. Has been net positive with EF 20 so likely
   reaccumulating
   -- F/u ascites cultures and cytology
   -- Cont abx (see above): treating staph bacteremia, uti, hap and SBP
   empirically
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF): Cr improving.
   Likely related to poor forward flow.
   -- Trend Is/Os
   -- Trend Cr
   -- Holding ace-i
   -- Renally dose meds
 HEART FAILURE (CHF), SYSTOLIC, CHRONIC: EF 20% on TEE; Severe TR.
   -- Increase coreg to Carvedilol 6.25 mg PO/NG [**Hospital1 **]
   -- Holding ace-I for ARF, holding statin for transaminitis
 ANEMIA, CHRONIC: Repeat hct stable.  Baseline mid-high 20s, iron
   deficient
   -- Continue to trend hct
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   -- Cont asa, coreg
   -- Holding ace-i/statin as outlined above
 DIABETES MELLITUS (DM), TYPE II
   -- ISS
 ANOXIC BRAIN DAMAGE (ANOXIC ENCEPHALOPATHY, HYPOXIC ISCHEMIC)
   [**1-4**] PEA arrest
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2203-1-9**] 11:12 PM 38 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2203-1-6**] 12:37 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2203-01-11 07:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2203-1-10**]:
   -ID: IV vanc x 14days. Goal trough 15-20. If concern for true PNA,
   consider mini-BAL, while in house, cont [**Last Name (un) 430**] (infuse over 3H)
   -no PICC because T 100.3
   -vanc held for high level, and dosing changed to Q24
   -liver signing off, likely [**1-4**] CHF, call with ?s
   -given another 20 lasix
   -palliative care on board
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2203-1-8**] 02:50 PM
   Cefipime - [**2203-1-9**] 03:14 AM
   Metronidazole - [**2203-1-9**] 03:14 AM
   Vancomycin - [**2203-1-9**] 08:14 PM
   Meropenem - [**2203-1-11**] 12:10 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2203-1-10**] 08:08 AM
   Furosemide (Lasix) - [**2203-1-10**] 12:08 PM
   Heparin Sodium (Prophylaxis) - [**2203-1-11**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2203-1-11**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 37.8
C (100
   Tcurrent: 36.8
C (98.2
   HR: 84 (79 - 106) bpm
   BP: 92/73(78) {92/64(71) - 114/87(91)} mmHg
   RR: 15 (15 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 86.7 kg (admission): 90 kg
   Height: 70 Inch
             Total In:
                                                                  1,287 mL
                                                                    360 mL
   PO:
             TF:
                                                                    903 mL
                                                                    215 mL
   IVF:
                                                                    328 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  1,265 mL
                                                                    710 mL
   Urine:
                                                                  1,265 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     22 mL
                                                                   -350 mL
   Respiratory support
   O2 Delivery Device: T-piece
   SpO2: 100%
   ABG: ///21/
   Physical Examination
   Eyes open, may track occasionally, unresponsive to threat. Coarse BS c
   scattered wheeze / rales. RRR s1s2s3s4 [**1-8**] SM. Distended, +BS, + fluid
   wave. 1+ edema.
   Labs / Radiology
   270 K/uL
   8.5 g/dL
   94 mg/dL
   1.7 mg/dL
   21 mEq/L
   3.9 mEq/L
   42 mg/dL
   143
   145 mEq/L
   26.6 %
   13.4 K/uL
        [image002.jpg]
                             [**2203-1-6**]  03:35 AM
                             [**2203-1-7**]  04:38 AM
                             [**2203-1-8**]  02:02 AM
                             [**2203-1-8**]  09:00 AM
                             [**2203-1-9**]  02:32 AM
                             [**2203-1-9**]  10:30 PM
                             [**2203-1-9**]  10:40 PM
                             [**2203-1-10**]  03:21 AM
                             [**2203-1-10**]  11:39 PM
                             [**2203-1-11**]  03:12 AM
   WBC
   13.1
   13.8
   13.0
   17.4
   14.1
   13.4
   Hct
   25.9
   27.6
   23.0
   26.0
   24.2
   26.7
   26.6
   Plt
   [**Telephone/Fax (3) 11563**]94
   274
   270
   Cr
   2.2
   2.3
   2.0
   1.8
   1.8
   1.7
   1.7
   TropT
   0.07
   TCO2
   26
   Glucose
   79
   95
   103
   81
   98
   108
   147
   94
   Other labs: PT / PTT / INR:17.6/33.4/1.6, CK / CKMB /
   Troponin-T:101/2/0.07, ALT / AST:34/27, Alk Phos / T Bili:535/3.0,
   Amylase / Lipase:/45, Differential-Neuts:88.4 %, Lymph:6.2 %, Mono:3.3
   %, Eos:1.9 %, Lactic Acid:1.5 mmol/L, Albumin:2.6 g/dL, LDH:270 IU/L,
   Ca++:9.3 mg/dL, Mg++:2.2 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   45M anoxic brain injury s/p VFA during VT abalation, DCM (20%), MRSA
   bacteremia, tongue biting s/p total dental extraction, ?chronic liver
   disease. Reportedly febrile at rehab with increasing abd girth, +BCx,
   proteus UTI, peritonitis on vanc/[**Last Name (un) 430**] for coag negative staph, MRSA
   bacteremia and pseudomonas/MRSA in sputum.
 SEPSIS: Coag neg staph x 2, MRSA.  Per ID likely new line source
   rather than relapse from prior MRSA bacteremia.  Sputum with MRSA and
   pseudomonas, though it is unclear whether this represents true
   infection. Also with SBP (though cultures have not grown) and treated
   with broad specs. TEE negative.
   -- Continue vanc for 14 day treatment course
   -- Continue [**Last Name (un) 430**] for 14 days treatment for +/- pna per ID, consider
   mini BAL
   --Appreciate ID recs
   -- f/u ascites cx, prelim negative
   -- F/u blood cultures (surveillance cx have since shown no growth)
   -- PICC line ordered, not placed yesterday given fever
 ASCITES/TRANSAMINITIS: Likely secondary to progressive severe sCHF
   leading to congestive hepatopathy, BNP elevated and echo remarkable for
   severe RHF (severe TR) and poor EF (20%).  While his rise in LFTs are
   consistent w/ cholestatic picture, US w/o evidence of biliary
   obstruction.  INR elevated secondary to nutrition vs synthetic
   dysfunction. Previous serologies: c/w prior hep a, prior hep B, no
   hepc; h/o shock liver in [**9-10**].
   --diuresis with lasix
   -- Can add home aldactone
   -- F/u ascites cultures
   -- Cont abx (see above): treating staph bacteremia, uti, hap and SBP
   empirically
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF): Cr improving.
   Likely related to poor forward flow.
   -- Trend Is/Os
   -- Trend Cr
   -- Holding ace-i
   -- Renally dose meds
 HEART FAILURE (CHF), SYSTOLIC, CHRONIC: EF 20% on TEE; Severe TR.
   -- Increase coreg to Carvedilol 6.25 mg PO/NG [**Hospital1 **]
   -- Holding ace-I for ARF, holding statin for transaminitis
 ANEMIA, CHRONIC: Repeat hct stable.  Baseline mid-high 20s, iron
   deficient
   -- Continue to trend hct
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   -- Cont asa, coreg
   -- Holding ace-i/statin as outlined above
 DIABETES MELLITUS (DM), TYPE II
   -- ISS
 ANOXIC BRAIN DAMAGE (ANOXIC ENCEPHALOPATHY, HYPOXIC ISCHEMIC)
   [**1-4**] PEA arrest
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2203-1-11**] 01:30 AM 38 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2203-1-6**] 12:37 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 45M anoxic brain injury s/p VFA during VT
   abalation, DCM (20%), MRSA bacteremia, tongue biting s/p total dental
   extraction, ?chronic liver disease. Ongoing treatment of bacteremia /
   peritonitis / UTI / +/- pneumonia.
   Agree with plan to manage staph bacteremia / proteus UTI / peritonitis
   / possible nosocomial pneumonia with vanco to level / [**Last Name (un) 430**] via PICC x
   14d total, TEE without vegitation, d/w ID re duration of rx and f/u.
   New ascites / cirrhosis - continue abx for peritonitis, resume lasix
   today / aldactone in AM, LFTs are improving. ARF likely poor forward
   flow, creatinine / UOP stable, renal dose meds, resume diuretics as
   above. DCM - continue asa / coreg / lasix. TFs, +BM, PICC today; will
   try to meet with mother to discuss overall situation. Remainder of plan
   as outlined above.
Recent MRSA, CNS BSI, likely related to now removed RUE
PICC.  The susceptibility profile of this MRSA is dissimilar from
prior MRSA and the occurrence of the MRSA admixed with CNS
Rx 2 weeks with
IV vanco.  Patient may or may not have HAP/VAP due to Pseudomonas
and/or Staph.  A mini-BAL might have been useful to quantify the
organisms.  Since his CXR has improved and he has received
several days of rx, reasonable to complete rx with higher dose
and extended infusion [**Last Name (un) 430**] for PA with MIC 4 (relatively high
MIC).  Rx 14 days.  Moderate degree of neutrophilic ascites, but
negative cx.  Current broad abx will cover most SBP pathogens,
although it is not certain that he has this dx. Would send
additional stool for Cdiff.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2203-1-6**] 12:37 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2203-01-12 06:55:00 Physician Resident Progress Note
Chief Complaint: ascites, bacteremia
   24 Hour Events:
 PICC LINE - START [**2203-1-11**] 09:56 AM
   -Restarted home statin
   -Restarted aldactone (at higher dose) 100mg and cont lasix 40mg po
   -Stopped meropenem, started cipro 250mg daily for sbp ppx
   -Picc line placed
   -Likely to radius today
   History obtained from Medical records
   Patient unable to provide history: Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2203-1-9**] 08:14 PM
   Meropenem - [**2203-1-11**] 12:10 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2203-1-11**] 08:00 AM
   Lorazepam (Ativan) - [**2203-1-11**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Nutritional Support: Tube feeds
   Genitourinary: Foley
   Flowsheet Data as of  [**2203-1-12**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.2
C (97.2
   HR: 108 (84 - 108) bpm
   BP: 116/77(86) {96/60(70) - 123/85(105)} mmHg
   RR: 20 (15 - 22) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 86.7 kg (admission): 90 kg
   Height: 70 Inch
                  Total In:
                                                                  1,026 mL
                                                                    259 mL
   PO:
                  TF:
                                                                    861 mL
                                                                    259 mL
   IVF:
                                                                    100 mL
   Blood products:
   Total out:
                                                                  1,700 mL
                                                                    350 mL
   Urine:
                                                                  1,550 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -674 mL
                                                                    -91 mL
   Respiratory support
   O2 Delivery Device: T-piece
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: trach, split tongue
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: No(t) Follows simple commands, Responds to: Noxious
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   316 K/uL
   8.0 g/dL
   127 mg/dL
   1.6 mg/dL
   28 mEq/L
   4.2 mEq/L
   40 mg/dL
   111 mEq/L
   149 mEq/L
   26.9 %
   13.0 K/uL
        [image002.jpg]
                             [**2203-1-7**]  04:38 AM
                             [**2203-1-8**]  02:02 AM
                             [**2203-1-8**]  09:00 AM
                             [**2203-1-9**]  02:32 AM
                             [**2203-1-9**]  10:30 PM
                             [**2203-1-9**]  10:40 PM
                             [**2203-1-10**]  03:21 AM
                             [**2203-1-10**]  11:39 PM
                             [**2203-1-11**]  03:12 AM
                             [**2203-1-12**]  04:31 AM
   WBC
   13.8
   13.0
   17.4
   14.1
   13.4
   13.0
   Hct
   27.6
   23.0
   26.0
   24.2
   26.7
   26.6
   26.9
   Plt
   [**Telephone/Fax (3) 11569**]74
   270
   316
   Cr
   2.3
   2.0
   1.8
   1.8
   1.7
   1.7
   1.6
   TropT
   0.07
   TCO2
   26
   Glucose
   95
   103
   81
   98
   108
   147
   94
   127
   Other labs: PT / PTT / INR:15.7/30.9/1.4, ALT / AST:33/31, Alk Phos / T
   Bili:558/2.6, Ca++:9.4 mg/dL, Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Fluid analysis / Other labs: VANC: 26.0
   TRENDS:
   WBCs trending down
   CR trending down
   Tbili tredning down
   Microbiology: No new culture growth
   Assessment and Plan
   45M anoxic brain injury s/p VFA during VT abalation, DCM (20%), MRSA
   bacteremia, tongue biting s/p total dental extraction, ?chronic liver
   disease. Reportedly febrile at rehab with increasing abd girth, +BCx,
   proteus UTI, peritonitis treated with vanc/[**Last Name (un) 430**] for coag negative
   staph, MRSA bacteremia, SBP and pseudomonas/MRSA in sputum.
 BACTEREMIA: Coag neg staph x 2, MRSA.  Per ID likely new line source
   rather than relapse from prior MRSA bacteremia.
   -- Continue vanc for 14 day treatment course (start date [**1-5**])
   --new PICC placed
   Sputum with MRSA and pseudomonas, this does not likely represents true
   infection. Also with SBP (though cultures have not grown) and treated
   with broad specs. TEE negative.
   -- Can d/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 430**] today, has completed SBP course
   -- Appreciate ID recs
   -- f/u ascites cx, prelim negative
   -- F/u blood cultures (surveillance cx have since shown no growth)
   -- PICC line ordered, not placed yesterday given fever
 ASCITES/TRANSAMINITIS: Likely secondary to progressive severe sCHF
   leading to congestive hepatopathy, BNP elevated and echo remarkable for
   severe RHF (severe TR) and poor EF (20%).  While his rise in LFTs are
   consistent w/ cholestatic picture, US w/o evidence of biliary
   obstruction.  INR elevated secondary to nutrition vs synthetic
   dysfunction. Previous serologies: c/w prior hep a, prior hep B, no
   hepc; h/o shock liver in [**9-10**].
   -- Cont lasix for diuresis
   -- Restart home aldactone 25mg daily
   -- F/u ascites cultures
   -- Finished [**Last Name (un) 430**] for SBP, will need longterm SBP ppx
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF): Cr improving.
   Likely related to poor forward flow.
   -- Trend Is/Os
   -- Trend Cr
   -- Holding ace-I, restart as an outpatient
   -- Renally dose meds
 HEART FAILURE (CHF), SYSTOLIC, CHRONIC: EF 20% on TEE; Severe TR.
   -- Continue Carvedilol, can increase back to home dose as an outpatient
   as BP tolerates
   -- Holding ace-I for ARF
 ANEMIA, CHRONIC: Repeat hct stable.  Baseline mid-high 20s, iron
   deficient
   -- Continue to trend hct
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   -- Cont asa, coreg
   -- Holding ace-i
   -- Restart home statin today
 DIABETES MELLITUS (DM), TYPE II
   -- ISS
 ANOXIC BRAIN DAMAGE (ANOXIC ENCEPHALOPATHY, HYPOXIC ISCHEMIC)
   [**1-4**] PEA arrest
 BACTEREMIA
 ASCITES
   h/o shock liver in [**9-10**], h/o ETOH but unknown to what degree, also may
   be related to CHF, concerning also for cholestatis
 LIVER FUNCTION ABNORMALITIES
   in predominantly cholestatic pattern, hep serologies in [**Month (only) **]: c/w
   prior hep a, prior hep B, no hepc; h/o shock liver in [**9-10**]
 LEUKOCYTOSIS
   treating empirically for SBP, 193 polys
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Has been 0.9 since [**11-10**] but higher previously
 HEART FAILURE (CHF), SYSTOLIC, CHRONIC
   EF 20%
 ANEMIA, CHRONIC
   baseline mid-high 20s, iron deficient
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 COAGULOPATHY
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 DIABETES MELLITUS (DM), TYPE II
 ANOXIC BRAIN DAMAGE (ANOXIC ENCEPHALOPATHY, HYPOXIC ISCHEMIC)
   [**1-4**] PEA arrest
 DEEP VENOUS THROMBOSIS (DVT), UPPER EXTREMITY
   h/o UE dvt, was on lovenox but stooped in setting of bleeding, repeat
   ultrasound did not show clot
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2203-1-12**] 03:39 AM 38 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2203-1-6**] 12:37 PM
   PICC Line - [**2203-1-11**] 09:56 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to rehab / long term care facility